US04528114
3.4 g of 4-[2-(trans-4-cyanocyclohexyl)ethenyl]-4'-pentylbiphenyl were dissolved in 150 ml of toluene/ethanol (volume ratio 4:1), treated with 300 ml of 10% palladium/carbon and hydrogenated at normal pressure and room temperature until the hydrogen uptake came to a standstill. Filtration of the mixture and low-pressure chromatography (0.5 bar) of the concentrated filtrate on silica gel with 5% ethyl acetate/petroleum ether as the eluant gave 3.08 g of 4-[2-(trans-4-cyanocyclohexyl)-ethyl]-4'-pentylbiphenyl as colourless crystals (purity 99.2%; yield 86% based on trans-4-cyanocyclohexanecarboxaldehyde). By additional recrystallization of a sample from ethanol there was obtained pure product of melting point (C-S) 59.7° C., t.p. (S-S) 68.1° C., t.p. (S-N) 89.0° C. and cl.p. (N-I) 134.5° C.

reactant | 4-[2-(trans-4-cyanocyclohexyl)ethenyl]-4'-pentylbiphenyl | 3.4 g | C(#N)[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C26H31N
reactant | hydrogen | [H][H] | H2
solvent | toluene ethanol | 150 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | palladium/carbon | 300 ml | [Pd] | Pd
product | 4-[2-(trans-4-cyanocyclohexyl)-ethyl]-4'-pentylbiphenyl | 3.08 g, yield 86% | C(#N)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC | C26H33N
